US09023882B2
4-{3-Cyano-4-[2-(2-methoxyethoxy)phenyl]pyrrole-1-yl}-2-methoxymethoxy-benzoic acid ethyl ester
To a solution of 4-[4-(2-hydroxyphenyl)-3-cyanopyrrole-1-yl]-2-methoxymethoxy benzoic acid ethyl ester (0.12 g) and potassium carbonate (0.10 g) in N,N-dimethylformamide (1 mL) was added 1-bromo-3-methoxy-propane (0.092 g), and this mixture was stirred at 70° C. for 18 hours. This reaction mixture was poured into water, and this mixture was extracted with ethyl acetate. This organic layer was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give the title compound (0.12 g).

reactant | 4-[4-(2-hydroxyphenyl)-3-cyanopyrrole-1-yl]-2-methoxymethoxy benzoic acid ethyl ester | 0.12 g | C(C)OC(C1=C(C=C(C=C1)N1C=C(C(=C1)C1=C(C=CC=C1)O)C#N)OCOC)=O | C22H20N2O5
reactant | potassium carbonate | 0.10 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-3-methoxy-propane | 0.092 g | BrCCCOC | C4H9BrO
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 4-{3-Cyano-4-[2-(2-methoxyethoxy)phenyl]pyrrole-1-yl}-2-methoxymethoxy-benzoic acid ethyl ester | 0.12 g | C(C)OC(C1=C(C=C(C=C1)N1C=C(C(=C1)C1=C(C=CC=C1)OCCOC)C#N)OCOC)=O | C25H26N2O6
